US07354932B2
Preparation of N1-(1H-Benzoimidazol-2-ylmethyl)-N1-(2-methyl-5,6,7,8-tetrahydroquinolin-8-yl)-butane-1,4-diamine
To a solution of 2-{[[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-(2-methyl-5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester (228 mg, 0.384 mmol) in ethanol (10 mL) at room temperature was added hydrazine hydrate (0.10 mL). The mixture was stirred for 4 days. The mixture was concentrated in vaccuo and the resultant material was purified by column chromatography on silica gel (1:1:10 MeOH: NH4OH: CH2Cl2) to provide the product as a colourless oil (82 mg, 59%): 1H NMR (CDCl3) δ 1.25-1.45 (m, 4H), 1.60-1.70 (m, 1H), 1.81-1.93 (m, 1H), 1.97-2.04 (m, 1H), 2.10-2.18 (m, 1H), 2.46-2.56 (m, 3H), 2.62-2.82 (m, 6H), 3.95-3.99 (m, 1H), 4.00 (d, 1H, J=17.1 Hz), 4.09 (d, 1H, J=17.1 Hz), 6.98 (d, 1H, J=7.8 Hz), 7.15-7.21 (m, 2H), 7.30 (d, 1H, J=7.8 Hz), 7.57-7.60 (m, 2H).

reactant | 2-{[[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-(2-methyl-5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.384 mmol, 228 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC(=NC21)C)CCCCN2C(C1=CC=CC=C1C2=O)=O | C35H39N5O4
reactant | hydrazine hydrate | 0.10 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N1-(1H-Benzoimidazol-2-ylmethyl)-N1-(2-methyl-5,6,7,8-tetrahydroquinolin-8-yl)-butane-1,4-diamine | 82 mg, 59% | N1C(=NC2=C1C=CC=C2)CN(CCCCN)C2CCCC=1C=CC(=NC21)C | C22H29N5
